US06127386
159a. 3-(l-BOC-2-(S)-azetidinylmethoxy)-5-(N-methoxycarbonylamino)methylpyridine
Following the general procedure of Example 92c, substituting 5-aminomethyl-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine from Example 205b for 5-aminomethyl-3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloropyridine and methyl chloroformate for benzoyl chloride therein, the title compound (0.23 g, 94%) was prepared: 1H NMR (CDCl3, 300 MHz) δ1.42 (s, 9H), 2.20-2.41 (m, 2H), 3.72 (s, 3H), 3.87 (t, J=7.5 Hz, 2H), 4.15 (dd, J=2.5, 10.0 Hz, 1H), 4.33-4.39 (m, 3H), 4.55 (m, 1H), 7.10 (s, 1H), 8.17 (s, 1H), 8.27 (d, J=1.5 Hz, 1H); MS (CI/NH3) m/z 352 (M+H)+.

reactant | 5-aminomethyl-3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloropyridine | NCC=1C=C(C=NC1Cl)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C15H22ClN3O3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3-(l-BOC-2-(S)-azetidinylmethoxy)-5-(N-methoxycarbonylamino)methylpyridine | 0.23 g, 94% | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)CNC(=O)OC | C17H25N3O5
